US05403852
A solution of 5 g of 4,5-Bis(4-methoxyphenyl)-2-(5-bromopentyl)oxazole in 23 cm3 of ethanol and 1.1 g of potassium cyanide dissolved in 9 cm3 of water are brought to reflux for 15 hours. After evaporation of the solvent, the organic/inorganic residue is dissolved in 40 cm3 of diethyl ether and 10 cm3 of water, and the ether phase is separated and washed with 10 cm3 of saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated to dryness. The viscous residue (4.4 g) is chromatographed on a column of useful diameter 2 cm containing 80 g of silica gel (50 to 200μ). The column is eluted with 1.2 liters of diazopropyl ether, collecting 50 cm3 fractions. The fractions emerging at between 0.2 and 1.2 liters are concentrated to dryness. 3.5 g (80%) of 6-[4,5-bis(4-methoxyphenyl)-2-oxazolyl]hexanenitrile are obtained in the form of a pale yellow oil.

reactant | 4,5-Bis(4-methoxyphenyl)-2-(5-bromopentyl)oxazole | 5 g | COC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)OC)CCCCCBr | C22H24BrNO3
reactant | potassium cyanide | 1.1 g | [C-]#N.[K+]
solvent | ethanol | 23 cm3 | C(C)O | C2H6O
solvent | water | 9 cm3 | O | H2O
product | 6-[4,5-bis(4-methoxyphenyl)-2-oxazolyl]hexanenitrile | 3.5 g, 80% | COC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)OC)CCCCCC#N | C23H24N2O3
